### PR TITLE
[Merged by Bors] - feat: hasDetPlusMinusOne_iff_abs_det

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
This seems like a useful characterization.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean [hunk 1]
```diff
@@ -43,6 +43,11 @@ lemma HasDetPlusMinusOne.abs_det [LinearOrder R] [IsOrderedRing R] [HasDetPlusMi
     {g} (hg : g ∈ Γ) : |g.det.val| = 1 := by
   rcases HasDetPlusMinusOne.det_eq hg with h | h <;> simp [h]
 
+lemma hasDetPlusMinusOne_iff_abs_det [LinearOrder R] [IsOrderedRing R] :
+    HasDetPlusMinusOne Γ ↔ ∀ {g}, g ∈ Γ → |g.det.val| = 1 := by
+  refine ⟨fun h {g} hg => h.abs_det hg, fun h => ⟨?_⟩⟩
```
Comment (grunweg) [inline Mathlib/NumberTheory/ModularForms/ArithmeticSubgroups.lean]:
```suggestion
  refine ⟨fun h {g} hg ↦ h.abs_det hg, fun h ↦ ⟨?_⟩⟩
```

**Review by grunweg — COMMENTED** [review]
Thanks!
bors d+
